US06071927
(4S)-4-Benzyl-3-(2-methoxyphenyl)acetyl-1,3-oxazolidin-2-one
Thionyl chloride (6.91 mL) was added slowly to a warmed (50° C.) solution of 2-methoxyphenylacetic acid (13.77 g, 0.083 mol) and dimethylformamide (0.1 mL) in toluene (50 mL) and the mixture was stirred at 50° C. for 2 h. The solvent was evaporated under reduced pressure and the residue was dissolved in tetrahydrofuran (50 mL). To a cooled solution (-20° C.) of (4S)-4-benzyl oxazolidine-2-one (14.7 g, 83 mmol) in tetrahydrofuran (80 mL) was slowly added n-butyl lithium (1.6 M, 52 mL, 83 mmol) and the mixture was warmed to 0° C. To this solution was slowly added the solution of the acid chloride (above) in tetrahydrofuran over 20 min. The mixture was warmed to room temperature and was stirred for 72 h. Saturated aqueous ammonium chloride was added and the mixture was extracted with ethyl acetate. The combined organic fractions was washed with water and brine, dried (MgSO4) and the solvent was evaporated under reduced pressure. The residue was purified by chromatography on silica gel eluting with hexane/EtOAc (90:10 increasing to 50:50) to give the title compound (12.8 g) 1H NMR (360 MHz, CDCl3) δ7.37-7.15 (7 H, m), 6.92 (2 H, m), 4.71 (1 H, m), 4.30 (1 H, d, J 17.6 Hz), 4.26-4.17 (4 H, m), 3.82 (3 H, s), 3.29 (1 H, dd, J 13.4, 3.1 Hz), and 2.81 (1 H, dd, J 13.3 9.4 Hz).

reactant | Thionyl chloride | 6.91 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 2-methoxyphenylacetic acid | 0.083 mol, 13.77 g | COC1=C(C=CC=C1)CC(=O)O | C9H10O3
reactant | (4S)-4-benzyl oxazolidine-2-one | 83 mmol, 14.7 g | C(C1=CC=CC=C1)[C@@H]1NC(OC1)=O | C10H11NO2
reactant | n-butyl lithium | 83 mmol, 1.6 M, 52 mL | C(CCC)[Li]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
solvent | dimethylformamide | 0.1 mL | CN(C=O)C | C3H7NO
product | (4S)-4-Benzyl-3-(2-methoxyphenyl)acetyl-1,3-oxazolidin-2-one | 12.8 g | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C(CC1=C(C=CC=C1)OC)=O | C19H19NO4
